2184-08-14 08:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2184-8-13**] 03:00 PM
 WOUND CULTURE - At [**2184-8-14**] 01:46 AM
 Developed SOB and agitation overnight; exam and CXR concerning for
   HF. Pt treated with 10 mg IV Lasix
 good response.
   Allergies:
   Antihistamines
   Unknown; Patien
   Last dose of Antibiotics:
   Ciprofloxacin - [**2184-8-14**] 03:39 AM
   Nafcillin - [**2184-8-14**] 05:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-8-14**] 01:04 AM
   Furosemide (Lasix) - [**2184-8-14**] 03:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-8-14**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 60 (60 - 60) bpm
   BP: 100/37(53) {85/27(43) - 125/64(77)} mmHg
   RR: 18 (16 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,585 mL
                                                                    602 mL
   PO:
                                                                    250 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,390 mL
                                                                    482 mL
   Blood products:
                                                                  1,570 mL
   Total out:
                                                                    966 mL
                                                                    790 mL
   Urine:
                                                                    966 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,619 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: very dimished DP pulses bilat; unchanged from
   prior exam
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Rash: RLE w/ erythema & tow ~1cm stage II ulcers.
   2 sacral [**Doctor Last Name **] ulcers (stage II) w/ surrounding stage I
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   227 K/uL
   10.0 g/dL
   140 mg/dL
   1.6 mg/dL
   17 mEq/L
   4.1 mEq/L
   29 mg/dL
   106 mEq/L
   136 mEq/L
   32.5 %
   13.2 K/uL
        [image002.jpg]
                             [**2184-8-13**]  06:28 AM
                             [**2184-8-13**]  02:00 PM
                             [**2184-8-13**]  09:12 PM
                             [**2184-8-14**]  03:43 AM
   WBC
   14.4
   13.2
   Hct
   30.6
   26.7
   30.9
   32.5
   Plt
   282
   227
   Cr
   1.3
   1.6
   Glucose
   107
   140
   Other labs: PT / PTT / INR:17.8/36.2/1.6, Albumin:3.1 g/dL, Ca++:7.5
   mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   [**Age over 90 **]yo man w/ multiple medical problems including metastatic prostate
   cancer (to bone), afib on coumadin, CAD, who p/w fatigue and weakness
   in setting of red/dark stools x2-3wk.  Found to have HCT 21, down from
   low to mid-30s.  Stool guaiac positive.
   # GIB: Now s/p endoscopy which did not demonstrate a clear source for
   bleeding.
   - continue [**Hospital1 **] PPI
   - continue to trend HCT; currently stable
   -2 PIV
   #CHF: Pt with episode of SOB and desaturation last evening which was
   concerning for HF. Has improved with diuresis. Given pt
s I/Os, feel he
   may be at risk for this again, thus will aim for further gentle
   diuresis (additional 500cc negative today).
   # CAD: remote hx IMI.  No evidence of cardiac ischemia at present.
   Holding atenolol, Plavix and Coumadin in setting of GIB, but will
   restart soon.
   #Afib/CHB: s/p PPM.  On coumadin. Currently Vpaced
   - Holding coumadin, atenolol & dilt
   # PVD: The pt is s/p RLE BKA and bilateral CEA. At admission, his skin
   was warm, well perfused, though are some stage 2 ulcers on LLE (L
   medial malleolus & L shin); Cipro and nafcillin were started for a
   question ulcer infection, possible with Pseudomonas. The vascular
   surgery and wound services were consulted and followed the pt's
   progress. The pt's home Coumadin and Plavix were held.
   # Prostate CA: mets to bones
   - con't premarin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-8-13**] 12:00 AM
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: